US05026707
Preparation of cis-1-Methyl-2-piperazinyl-6-chloro-1,2,3,4-tetrahydronaphthalene dihydrochloride
To 15 g of 4A molecular sieves in 250 ml of dry toluene were added piperazine (6.37 g) and 6-chloro-1-methyl-2-tetralone (8.6 g). Using a Dean-Stark water trap, the mixture was stirred and heated at reflux under a nitrogen atmosphere. After 23 hours, NMR analysis of a sample of the reaction solution showed the presence of tetralone. Fifty mg of p-toluenesulfonic acid were added, and the mixture was stirred and refluxed for an additional 26 hours. An additional 10 g of 4A sieves was added, and reflux was continued for an additional 10 hours. The sieves were filtered, and toluene was evaporated from the filtrate. The residue was dissolved in a mixture of 200 ml of THF and 20 ml of methanol. To the resulting solution, stirred under nitrogen and with ice bath cooling, was added sodium cyanoborohydride (2.68 g). Gaseous HCl was added to the solution, in portions, until the solution remained acidic. After stirring overnight at room temperature, solvents were removed on a rotary evaporator, and the residue was partitioned between ether and dilute hydrochloric acid. The acidic solution was separated and made basic in the cold with sodium hydroxide. The oil which separated was extracted with ether, and the ether solution was dried (MgSO4). Removal of the ether left 8.1 g of an oil. The oil was combined with 1 g of the product from a previous small scale reaction. A solution of the total in ethanol was treated with excess gaseous HCl. The crystals which separated were filtered and digested on the steam bath with 100 ml of methanol. The several crops of crystals obtained from the methanol were combined and recrystallized from ethanol to provide 6.3 g of the title compound. When dried at 120° C. in vacuo, the dihydrochloride lost one mol of hydrogen chloride and gave the following:

reactant | piperazine | 6.37 g | N1CCNCC1 | C4H10N2
reactant | 6-chloro-1-methyl-2-tetralone | 8.6 g | ClC=1C=C2CCC(C(C2=CC1)C)=O | C11H11ClO
reactant | tetralone | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | HCl | Cl | ClH
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
catalyst | p-toluenesulfonic acid | Fifty mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | cis-1-Methyl-2-piperazinyl-6-chloro-1,2,3,4-tetrahydronaphthalene dihydrochloride | 6.3 g | Cl.Cl.C[C@H]1[C@H](CCC2=CC(=CC=C12)Cl)N1CCNCC1 | InChI=1S/C15H21ClN2.2ClH/c1-11-14-4-3-13(16)10-12(14)2-5-15(11)18-8-6-17-7-9-18;;/h3-4,10-11,15,17H,2,5-9H2,1H3;2*1H/t11-,15+;;/m1../s1
